US05811427
In a 2-liter round-bottomed flask were placed methyl 4-amino-5-chloro-3-methylsulfonyloxybenzoate (8.7 g, 31.1 mmole), 50% aqueous sodium hydroxide (10.1 g, 126 mmole), methanol (250 ml) and water (550 ml). The resulting mixture was refluxed for 3 hours. The reaction mixture was cooled down to room temperature and poured into a mixture of water and ethyl acetate. The aqueous layer was separated, neutralized to pH 6 with concentrated aqueous hydrochloric acid, and extracted with ethyl acetate (3×400 ml). The combined organic layers were washed with water (2×200 ml), dried over anhydrous magnesium sulfate and the solvent eliminated in the rotary evaporator yielding 4.3 g of the expected 4-amino-5-chloro-3-hydroxybenzoic acid (intermediate XII). (1H-NMR, DMSO-d6 12.5(1,bs); 10(1,bs); 7.22(1,s); 5.4(2,s))

reactant | methyl 4-amino-5-chloro-3-methylsulfonyloxybenzoate | 31.1 mmole, 8.7 g | NC1=C(C=C(C(=O)OC)C=C1Cl)OS(=O)(=O)C | C9H10ClNO5S
reactant | sodium hydroxide | 126 mmole, 10.1 g | [OH-].[Na+]
reactant | methanol | 250 ml | CO | CH4O
reactant | water | 550 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-amino-5-chloro-3-hydroxybenzoic acid | 4.3 g | NC1=C(C=C(C(=O)O)C=C1Cl)O | C7H6ClNO3
